US03961069
9-(N-Methylcarbamoyloxy)xanthene (4.0 g., 15.7 mmoles) was stirred with 20 ml. of 2-methyl-2-propen-1-ol for 20 hours at room temperature, and the mixture was then filtered. The filtrate was evaporated in vacuo and the residue was dissolved in ice-cold ether and washed twice with ice-cold portions of 10% aqueous acetic acid, water, and 5% aqueous sodium bicarbonate solution. After drying over potassium carbonate, the solvent was removed in vacuo, and the resulting oil was distilled to give (2-methyl-2-propen-1-yl) 9-xanthenyl ether, b.p. 116°C. at 0.15 mm.

reactant | 9-(N-Methylcarbamoyloxy)xanthene | 15.7 mmoles, 4.0 g | CNC(=O)OC1C2=CC=CC=C2OC=2C=CC=CC12 | C15H13NO3
reactant | 2-methyl-2-propen-1-ol | CC(CO)=C | C4H8O
product | (2-methyl-2-propen-1-yl) 9-xanthenyl ether | C1=CC=CC=2OC3=CC=CC=C3C(C12)OCC(=C)C | C17H16O2
